US07943619B2
a) 3-Iodo-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine
As described for example 1, (5-methyl-3-phenyl-isoxazol-4-yl)-methanol (10.0 g, 53 mmol) was converted using 3-chloro-6-iodopyridazine (Goodman, A. J.; Stanforth, S. P.; Tarbit, B. Tetrahedron 1999, 55, 15067) instead of 3,6-dichloropyridazine to the title compound (16.9 g, 81%) which was contaminated with ca. 20% of 3-chloro-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine. The product was obtained as an off white solid. MS: m/e=394.0 [M+H]+.

reactant | (5-methyl-3-phenyl-isoxazol-4-yl)-methanol | 53 mmol, 10.0 g | CC1=C(C(=NO1)C1=CC=CC=C1)CO | C11H11NO2
reactant | 3-chloro-6-iodopyridazine | ClC=1N=NC(=CC1)I | C4H2ClIN2
reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
product | 3-Iodo-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine | 16.9 g, 81% | IC=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C15H12IN3O2
